US05364943
Cis-3-(2-methoxy-5-trifluoromethoxybenzylamino)-2-phenyl-piperidine hydrochloride
To a 250 mL Parr bottle were charged 5.1 gms 5% Pt/C, 85 mL 1.0M HCl/CH3OH, and 1.7 grams of 3-(2-methoxy-5-trifluoromethoxybenzylamino)-2-phenylpyridine. The reaction mixture was hydrogenated at 46-50 psi hydrogen at ambient temperature for 9.5 hours. After filtering the reaction mixture over Celite® and washing the cake with methanol, the filtrate was concentrated to a white solid. This material was repulped in acetonitrile at ambient temperature, filtered, and dried to yield 0.52 grams (25.2%) of a white material. The identity of this material was establishd by high resolution NMR.

reactant | HCl CH3OH | 1.0M, 85 mL | Cl.CO
reactant | 3-(2-methoxy-5-trifluoromethoxybenzylamino)-2-phenylpyridine | 1.7 grams | COC1=C(CNC=2C(=NC=CC2)C2=CC=CC=C2)C=C(C=C1)OC(F)(F)F | C20H17F3N2O2
reactant | hydrogen | [H][H] | H2
catalyst | Pt/C | 5.1 gms | [Pt] | Pt
product | Cis-3-(2-methoxy-5-trifluoromethoxybenzylamino)-2-phenyl-piperidine hydrochloride | 0.52 grams, 25.2% | Cl.COC1=C(CN[C@@H]2[C@@H](NCCC2)C2=CC=CC=C2)C=C(C=C1)OC(F)(F)F | InChI=1S/C20H23F3N2O2.ClH/c1-26-18-10-9-16(27-20(21,22)23)12-15(18)13-25-17-8-5-11-24-19(17)14-6-3-2-4-7-14;/h2-4,6-7,9-10,12,17,19,24-25H,5,8,11,13H2,1H3;1H/t17-,19-;/m0./s1
